datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[C:22]([c:23]1[c:24]([H:31])[c:25]([H:32])[c:26]([H:33])[c:27]([H:34])[c:28]1[H:35])([H:29])[H:30])([H:10])([H:11])[H:12],49.413
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[O:17][O:18][C:19](=[O:20])[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][O:17][O:18][C:19](=[O:20])[H:21],76.48352
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26]([C:27]([C:28]([H:33])([H:34])[H:35])[C:29]([H:36])([H:37])[H:38])[H:32])([H:30])[H:31]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:27]([C:26](=[C:25]([H:30])[H:31])[H:32])([C:28]([H:33])([H:34])[H:35])[C:29]([H:36])([H:37])[H:38],76.1488
[c:0]1([H:16])[c:1]([H:17])[c:2]2[c:3]([H:18])[c:4]([H:19])[c:5]3[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]4[c:10]([H:23])[c:11]([H:24])[c:12]([c:13]1[H:25])[c:14]2[c:15]34>>[H:16].[c:0]1[c:1]([H:17])[c:2]2[c:3]([H:18])[c:4]([H:19])[c:5]3[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]4[c:10]([H:23])[c:11]([H:24])[c:12]([c:13]1[H:25])[c:14]2[c:15]34,619.549984
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24])([H:16])([H:17])[H:18]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:16])([H:17])[H:18])([S:9][H:19])[c:10]1[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]1[H:24],112.884
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14][C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14](=[C:13]([H:17])[H:18])[C:15](=[C:16]([H:20])[H:21])[H:19],22.1752
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:10])([H:11])[H:12]>>[C:0]([C:1]1([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]1([C:7]([C:8]([H:23])([H:24])[H:25])[C:9]([H:26])([H:27])[H:28])[H:22])([H:10])([H:11])[H:12],27.9491
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4](=[O:5])[H:16])([H:14])[H:15])[O:6][O:7][H:17])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4](=[O:5])[H:16])([H:14])[H:15])[O:6])([H:8])([H:9])[H:10].[O:7][H:17],172.3808
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:18][C:26]([C:25]([H:28])([H:29])[H:30])([C:27]([H:32])([H:33])[H:34])[H:31],30.9616
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6][O:7]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][O:6][O:7],229.2832
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18],-20.92
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[S:7]=[C:8][S:9][H:10]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8](=[S:7])[S:9][H:10],48.9528
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:18])([H:19])[H:20])[C:7]([H:21])([H:22])[H:23])([H:16])[H:17])([H:14])[H:15])=[C:8]([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[C:8]1([C:9]([H:24])([H:25])[H:26])[C:10]([H:27])([H:28])[H:29])[H:13])([H:11])[H:12],64.7683
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]=[O:6])([H:7])([H:8])[H:9]>>[C:0](=[O:1])[H:3].[H:2][C:5]([C:4]([H:7])([H:8])[H:9])=[O:6],54.0573
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16](=[S:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:16](=[S:17])[H:18],31.7984
